* CMOS comparator netlist: Vin > Vref drives Vout high
VDDSRC VDD 0 DC 5
VREFSRC Vref 0 DC 2.5
VINSRC Vin 0 DC 0 PWL(0ms 0V 1ms 0V 6ms 5V 11ms 5V)

RBIAS VDD Vbias 68k
MBIAS Vbias Vbias 0 0 NMOS W=10u L=2u
MTAIL Vtail Vbias 0 0 NMOS W=10u L=2u

MIN_VIN Vx Vin Vtail 0 NMOS W=20u L=1u
MIN_VREF Vmir Vref Vtail 0 NMOS W=20u L=1u

MPLOAD_REF Vmir Vmir VDD VDD PMOS W=40u L=1u
MPLOAD_OUT Vx Vmir VDD VDD PMOS W=40u L=1u

MPINV Vout Vx VDD VDD PMOS W=16u L=1u
MNINV Vout Vx 0 0 NMOS W=4u L=1u

CLOAD Vout 0 20f

.model NMOS NMOS level=1 VTO=0.8 KP=120u GAMMA=0.45 PHI=0.7 LAMBDA=0.05
.model PMOS PMOS level=1 VTO=-0.9 KP=50u GAMMA=0.45 PHI=0.7 LAMBDA=0.025

.op
.dc VINSRC 0 5 0.01
.print dc V(Vin) V(Vref) V(Vx) V(Vout)
.tran 10u 11ms
.print tran V(Vin) V(Vref) V(Vx) V(Vout)
.end
